US04985419
10-[(2RS)-1-(1-Pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile hydrochloride (3.72 g) is added to a solution of potassium hydroxide (1.7 g) in glycol (20 cc), and the mixture is stirred for 5 hours under reflux. After cooling, the yellow solution obtained is traeted with a 3N ethereal solution (10 cc) of hydrochloric acid, and diluted with acetone (100 cc) and ethyl ether (100 cc) and then filtered. The yellow filtrate, after priming, gives rise to the crystallization of a product, which is drained, washed with ethyl ether (2×10 cc) and dried under reduced pressure (5 mm Hg; 0.68 kPa) at 40° C. 10-[(2RS)-1-(1-Pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride (3.5 g) is thereby obtained in the form of pale yellow crystals, m.p. 215°-217° C.

reactant | 10-[(2RS)-1-(1-Pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile hydrochloride | 3.72 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N
reactant | potassium hydroxide | 1.7 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | acetone | 100 cc | CC(=O)C | C3H6O
solvent | ethyl ether | 100 cc | C(C)OCC | C4H10O
product | 10-[(2RS)-1-(1-Pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride | 3.5 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)O | InChI=1S/C20H22N2O2S.ClH/c1-14(13-21-10-4-5-11-21)22-16-6-2-3-7-18(16)25-19-9-8-15(20(23)24)12-17(19)22;/h2-3,6-9,12,14H,4-5,10-11,13H2,1H3,(H,23,24);1H
